US04797483
By reacting saccharin sodium with isopropyl chloroacetate in dimethylformamide, isopropyl 3-oxo-1,2-bensoisothiazoline-2-acetate 1,1-dioxide is obtained which, by reaction with sodium isopropylate in isopropanol at temperatures between 60° C. and the boiling point of the solvent, for a time between 15 minutes and 3 hours, leads to a compound which, when methylated in an aqueous-alcoholic basic medium with dimethyl sulfate, gives an intermediate compound which, when condensed with 2-aminopyridine in xylene, yields 4-hydroxy-2-methyl-N-(2-pyridyl)-2H-1,2-benzothiazine-3-carboxamide 1,1-dioxide which may be used as a non-steroidal analgesic and anti-inflammatory drug.

reactant | saccharin sodium | [Na].S1(=O)(=O)NC(=O)C2=CC=CC=C12
reactant | isopropyl chloroacetate | ClCC(=O)OC(C)C | C5H9ClO2
reactant | sodium | [Na] | Na
reactant | dimethyl sulfate | S(=O)(=O)(OC)OC | C2H6O4S
reactant | 2-aminopyridine | NC1=NC=CC=C1 | C5H6N2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | isopropanol | C(C)(C)O | C3H8O
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 4-hydroxy-2-methyl-N-(2-pyridyl)-2H-1,2-benzothiazine-3-carboxamide 1,1-dioxide | OC1=C(N(S(C2=C1C=CC=C2)(=O)=O)C)C(=O)NC2=NC=CC=C2 | C15H13N3O4S
